US07612067B2
Preparation of 3-[4-bromo-2-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiazol-5-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
82 mg of 1-methyl-1,2,4-triazole (0.99 mmol) is dissolved in 2 ml of dry THF and cooled to −78° C. and 0.4 ml of n-butyllithium 2.5 M in hexane (0.99 mmol) is added. The reaction mixture is stirred at −78° C. to room temperature for 10 min and cooled to −78° C. again. 1.98 ml of 0.5 M zinc chloride 0.5 M solution in THF (0.99 mmol) is added and stirred at −78° C. to room temperature for 15 min. 152 mg of 3-(2,4-dibromo-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.33 mmol) and 27 mg of PdCl2(dppf) (0.033 mmol) are added and the vial is capped with a Teflon cap and heated at 80° C. for 2 days. The reaction is cooled to room temperature and quenched with sat. NH4Cl1 and extracted with CH2Cl2. The separated CH2Cl2 layer is dried over Na2SO4 and evaporated. The crude product is applied onto a silica-gel chromatography column (Hexane:AcOEt:2M NH3 in MeOH=10:2:1) to give 88 mg of the title product. Yield 54%. mass spectrum (m/e): 461 (M+1). 1H-NMR (CDCl3): 7.98 (s, 1H), 6.77 (s, 1H), 4.44 (s, 3H), 3.35 (m, 1H), 2.59 (s, 3H), 2.55 (s, 3H), 1.88 (m, 4H), 0.92 (t, J=7.5 Hz, 6H).

reactant | 1-methyl-1,2,4-triazole | 0.99 mmol, 82 mg | CN1N=CN=C1 | C3H5N3
reactant | n-butyllithium | 2.5 M, 0.4 ml | C(CCC)[Li]
reactant | hexane | 0.99 mmol | CCCCCC | C6H14
reactant | 3-(2,4-dibromo-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.33 mmol, 152 mg | BrC=1SC(=C(N1)Br)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C16H18Br2N4S
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 0.5 M, 1.98 ml | [Cl-].[Zn+2].[Cl-]
catalyst | PdCl2(dppf) | 0.033 mmol, 27 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 0.99 mmol | C1CCOC1 | C4H8O
product | 3-[4-bromo-2-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiazol-5-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 88 mg, Yield 54% | BrC=1N=C(SC1C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C=2N(N=CN2)C | C19H22BrN7S
